US09303023B2
A round bottom flask was charged with 2-bromo-4-methoxy-1-nitrobenzene (2.0 g, 8.6 mmol) and ethanolamine (8.1 mL, 135 mmol). The resulting reaction mixture was stirred at 50° C. for 4 h and at rt for 48 h, then water (32.0 mL) was added and the resulting precipitate was filtered off and rinsed with water to yield 2-((5-methoxy-2-nitrophenyl)amino)ethanol as a yellow solid LC-MS conditions B: tR=0.56 min, [M+H]+=213.13.

reactant | 2-bromo-4-methoxy-1-nitrobenzene | 8.6 mmol, 2.0 g | BrC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C7H6BrNO3
reactant | ethanolamine | 135 mmol, 8.1 mL | C(O)CN | C2H7NO
solvent | water | 32.0 mL | O | H2O
product | 2-((5-methoxy-2-nitrophenyl)amino)ethanol | COC=1C=CC(=C(C1)NCCO)[N+](=O)[O-] | C9H12N2O4
